US04367238
A mixture of ethyl 2-cyano-2-[2-methoxy-3-(2-chlorophenoxy)phenyl]propionate (5.8 g), conc. hydrochloric acid (20 ml) and acetic acid (40 ml) was refluxed under heating for 26 hours. After cooling, the reaction mixture was evaporated, and water was added to the residue. The mixture was evaporated again, and the oily residue was dissolved in saturated aqueous sodium bicarbonate under warming. After cooling, the aqueous solution was washed with diethyl ether, acidified with conc. hydrochloric acid and extracted with diethyl ether. The extract was washed with water, dried and then evaporated to give oily 2-[2-methoxy-3-(2-chlorophenoxy)phenyl]propionic acid (2.7 g).

reactant | ethyl 2-cyano-2-[2-methoxy-3-(2-chlorophenoxy)phenyl]propionate | 5.8 g | C(#N)C(C(=O)OCC)(C)C1=C(C(=CC=C1)OC1=C(C=CC=C1)Cl)OC | C19H18ClNO4
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2-[2-methoxy-3-(2-chlorophenoxy)phenyl]propionic acid | 2.7 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)Cl)C(C(=O)O)C | C16H15ClO4
